US06699863B1
Preparation of 1-[(3-Methoxy-propylamino)-methyl]-3-(1H-pyrrol-2-ylmethylene)-1,3-dihydro-indol-2-one
A mixture of Z-(1H-Pyrrol-2-ylmethylene)-1,3-dihydro-indol-2-one (120.0 mg, 0.571 mmol), paraformaldehyde (17.1 mg, 0.571 mmol), and 3-methoxypropylamine (58.2 μL, 0.571 mmol) in 4.0 mL EtOH was heated at reflux for 6.5 h. The reaction mixture was cooled to room temperature and let stand for 22 h. The reaction mixture was filtered and the filter cake rinsed with 30% ethyl acetate in hexane. The filtrate was concentrated in vacuo and 4 ML of EtOH added. The reaction was refluxed an additional 19.5 h. The reaction mixture was cooled to room temperature and partitioned between 30 mL dilute HCl and 20 mL Ethyl acetate. The organic layer was removed and the aqueous layer washed with 15 mL ethyl acetate. The aqueous layer was made basic to pH 8 with saturated NaHCO3 and extracted with ethyl acetate. The ethyl acetate layer was washed with H2O, brine and dried over anhydrous Na2SO4. The ethyl acetate layer was filtered and then concentrated. The solid obtained (42.5 mg) was dissolved in CHCl3 and purified by chromatography (silica gel, 1:1/hexane:acetone) to give the title compound (1.5 mg, 1%).

reactant | Z-(1H-Pyrrol-2-ylmethylene)-1,3-dihydro-indol-2-one | 0.571 mmol, 120.0 mg | N1C(=CC=C1)\C=C\1/C(NC2=CC=CC=C12)=O | C13H10N2O
reactant | paraformaldehyde | 0.571 mmol, 17.1 mg | C=O | CH2O
reactant | 3-methoxypropylamine | 0.571 mmol, 58.2 μL | COCCCN | C4H11NO
solvent | EtOH | 4.0 mL | CCO | C2H6O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 1-[(3-Methoxy-propylamino)-methyl]-3-(1H-pyrrol-2-ylmethylene)-1,3-dihydro-indol-2-one | 1.5 mg, 1% | COCCCNCN1C(C(C2=CC=CC=C12)=CC=1NC=CC1)=O | C18H21N3O2
